US05104883
A solution of diethyl cyanomethylphosphonate (18.2 g, 0.1 mol) in dry tetrahydrofuran (200 ml) at 25° C. was treated with sodium hydride (4.5 g of a 60% oil dispersion). After 30 mins at 25° C. the mixture was treated with 2-(pyrid-3-yl)-2-methyldithiocarbonylcyclohexanone (24.7 g, 0.93 mol) in dry tetrahydrofuran (100 ml). After 3 hrs at reflux the mixture was cooled to 25° C. over 30 mins, diluted with ethyl acetate (500 ml) and then washed with water (500 ml). The organic phase was removed and dried over magnesium sulphate and then filtered. Concentration in-vacuo (50° C.; 20 mm Hg) afforded a crude oil which wa purified by flash chromatography over silica gel, eluting with ethyl acetate/n-hexane (25:75) to give 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-cyanomethylenecyclohexane (7.4 g, 0.026 mol) as an orange gum.

reactant | diethyl cyanomethylphosphonate | 0.1 mol, 18.2 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(pyrid-3-yl)-2-methyldithiocarbonylcyclohexanone | 0.93 mol, 24.7 g | N1=CC(=CC=C1)C1(C(CCC(C1=C=S)=C=S)=O)C | C14H11NOS2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-cyanomethylenecyclohexane | 0.026 mol, 7.4 g | N1=CC(=CC=C1)C1(C(CCC(C1=C=S)=C=S)=CC#N)C | C16H12N2S2
